.SUBCKT LV1UPMOS 30 40 50
.TITLE LV1UPMOS
M1 6 2 5 5 Nmod L=1.16E-6 W=0.76
M2 5 2 5 6 Pmod L=1.3E-6 W=0.35
RG 4 2 4.5
RIN 2 5 1E12
RD 3 6 Rmod 0.04
RS 5 55 Rmod 0.015
RL 3 5 3E9
C1 2 5 8.5E-12
C2 3 4 3E-12
D1 5 3 Dbodymod
LD 3 30 0.5E-9
LG 4 40 1.0E-9
LS 55 50 1.0E-9
.MODEL Pmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=5E16 VTO=2.13KP=2.5E-5 NFS=2E11 KAPPA=0.06 UO=650 IS=1E-15 N=10)
.MODEL Nmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=1.5E16 TPG=-1 IS=1E-15 N=10)
.MODEL Dbodymod D (IS=6E-13 RS=.025 IKF=0.1 TRS1=1.5e-3 CJO=150e-12 BV=33 TT=12e-9)
.MODEL Rmod RES (TC1=2.8e-3 TC2=0.8E-5)
.ENDS LV1UPMOS

.SUBCKT LV1UNMOS 30 40 50
.TITLE LV1UNMOS
M1 6 2 5 5 Nmod L=1.16E-6 W=0.76
M2 5 2 5 6 Pmod L=1.3E-6 W=0.35
RG 4 2 4.5
RIN 2 5 1E12
RD 3 6 Rmod 0.04
RS 5 55 Rmod 0.015
RL 3 5 3E9
C1 2 5 8.5E-12
C2 3 4 3E-12
D1 5 3 Dbodymod
LD 3 30 0.5E-9
LG 4 40 1.0E-9
LS 55 50 1.0E-9

.MODEL Nmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=5E16 VTO=2.13 KP=2.5E-5 NFS=2E11 KAPPA=0.06 UO=650 IS=1E-15 N=10)
.MODEL Pmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1.5E16 TPG=-1 IS=1E-15 N=10)
.MODEL Dbodymod D (IS=6E-13 RS=.025 IKF=0.1 TRS1=1.5e-3 CJO=150e-12 BV=33 TT=12e-9)
.MODEL Rmod RES (TC1=2.8e-3 TC2=0.8E-5)

.ENDS LV1UNMOS
